US04596870
Phenoxy-2-propanone (0.10 mol), N-bromosuccinimide (0.10 mol) and a catalytic amount of 2,2'-azobis(2-methylpropionitrile) were stirred together in tetrachloromethane (100 ml) at 80° C. for 61/2 hours. The solvent was distilled off and the residue distilled under vacuum to give (1-bromo-2-oxopropyl) oxybenzene. Yield: 10.4 g (45%), b.p. 66°-68° C./0.01 mm Hg. 1H NMR (CDCl3, δ): 2.50 (s, CH3) 6.40 (s, --CHBr--), 6.9-7.5 (5H, Ph).

reactant | Phenoxy-2-propanone | 0.10 mol | O(C1=CC=CC=C1)CC(C)=O | C9H10O2
reactant | N-bromosuccinimide | 0.10 mol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobis(2-methylpropionitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrachloromethane | 100 ml | ClC(Cl)(Cl)Cl | CCl4
product | (1-bromo-2-oxopropyl) oxybenzene | BrC(C(C)=O)OC1=CC=CC=C1 | C9H9BrO2
